US06127354
N-Methyl-N-((1R)-1-(N-methyl-N-phenethylcarbamoyl)-2-(2-naphthyl)ethyl)carbamic acid tert-butylester (1.84 g, 4.12 mmol) was dissolved in dichloromethane (6 ml). The solution was cooled to 0° C. Trifluoroacetic acid (6 ml) was added. The solution was stirred for 10 min at 0° C. The solvent was removed in vacuo at 20° C. The residue was dissolved in dichloromethane (100 ml) and the solvent was removed in vacuo. This latter procedure was repeated two times. The crude product was purified by flash chromatography on silica (70 g), using dichloromethane/methanol/25% aqueous ammonia (100:10:1) as eluent, to give 350 mg of (2R)-2-(methylamino)-3-(2-naphthyl)propionic acid N-methyl-N-phenethylamide.

reactant | N-Methyl-N-((1R)-1-(N-methyl-N-phenethylcarbamoyl)-2-(2-naphthyl)ethyl)carbamic acid tert-butylester | 4.12 mmol, 1.84 g | C(C)(C)(C)OC(N([C@H](CC1=CC2=CC=CC=C2C=C1)C(N(CCC1=CC=CC=C1)C)=O)C)=O | C28H34N2O3
reactant | Trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | (2R)-2-(methylamino)-3-(2-naphthyl)propionic acid N-methyl-N-phenethylamide | 350 mg | CN(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)CCC1=CC=CC=C1 | C23H26N2O
